US06180622B2
Iodomethyl methyl ether (0.01 ml) is added to a solution of 34.0 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(5-methylimidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate, described in Example 31-a), in 0.5 ml of dry acetone, and the mixture is stirred in an argon atmosphere at room temperature for 10 min. The solvent is removed by evaporation under reduced pressure. The residue is purified by column chromatography on Sephadex LH-20 (dichloromethane:methanol=1:1) to give 42.3 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-methoxymethyl-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide as a yellow oil.

reactant | Iodomethyl methyl ether | 0.01 ml | COCI | C2H5IO
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(5-methylimidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 34.0 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=CN2C(S1)=CN=C2C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C28H34N4O6S2
solvent | acetone | 0.5 ml | CC(=O)C | C3H6O
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-methoxymethyl-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide | 42.3 mg | [I-].C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=C[N+]=2C(S1)=CN(C2C)COC)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C30H39N4O7S2.HI/c1-7-9-40-29(37)26-27(17(3)25-24(18(4)35)28(36)34(25)26)43-22-12-20(33(14-22)30(38)41-10-8-2)11-21-13-32-19(5)31(16-39-6)15-23(32)42-21;/h7-8,13,15,17-18,20,22,24-25,35H,1-2,9-12,14,16H2,3-6H3;1H/q+1;/p-1/t17-,18-,20-,22+,24-,25-;/m1./s1
